data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,9906,"CCO[C:1]1=[CH:2]C=CC=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3904,"C[N:1](C(=O)CC(=O)CC1=CC=CC=C1)[H:2].[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5007,"COC1=CC(CCNC(CC2=CC(O)=C(OC)C=C2)=[O+][P:1](Cl)(Cl)([O-:2])[Cl:3])=CC=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4477,"CC(=O)[O:1][C:2](C)([N+]1=CC=C(N(C)C)C=C1)[O-:3].CC(C)(C)O.CCN(CC)CC.CO|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3902,"CC(=O)OC[C:1](=[CH:2]CC(C1=CC=CC=C1)(C1=[N+](CC2=CC=CC=C2)C(C)=C(CCO)S1)[O:3][H:4])[O-:5].CC[NH+](CC)CC.[Cl-]|(5, 1);((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,7526,"C1=CC=C([N+:1]#[N:2])C=C1.CO[C:3]1=[CH:4]C=C(C)C=C1|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9762,"CC[CH+:1]O.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,8738,"C[B-](C)(C)[O:1]CCC[N+:2](C)=[C:3](C)C|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3495,"C1CCOC1.CC1=CN=C(C2(O)CCC(O)([O:1]CCO)CC2)S1.[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4163,"CC1=C[CH:1]=[CH:2]O1.C[CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,1910,"CCCCC(=O)C[C:1](=[CH:2][CH:3](CCC)[H:4])[P+:5](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC[OH:6]|(6, 4);((4, 3), 2);((2, 1), 5)"
train,pmechdb_split_0,0,5732,"CC(Br)C1(C2=CC=CC=C2)OCC[O+:1]1[H:2].[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5129,"C1=CC=[N:1]C=C1.C1=CC=[NH+]C=C1.CCC(=O)O.CCC(=O)[O-].CCC1=N[C:2](CC2CCCCC2)([H:3])[C:4](=[O:5])O1|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9151,"COC(=O)C(CC1=CNC2=CC=CC=C12)NC(=O)C1=C(N[C:1](C(C)NC(=O)OCC2C3=CC=CC=C3C3=C2C=CC=C3)([O-:2])[Cl:3])C=CC=C1.O.O=C(O)[O][Na].[Na+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,68,"C[C:1]1([H:2])CCCC[C+:3]1C.O=P(O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,9134,"CCCCC(O[P:1](C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[N:2](NC(=O)OCC)C(=O)OCC)C(OC1=CC=CC=C1)C(=O)O|((1, 2), 2)"
train,pmechdb_split_0,0,8009,"CCN1CCC23C4=C(C=CC(OC)=C4O)CC1C2CC(OC)[C:1](=[OH+:2])[CH:3]3[H:4].CC[N:5]1CCC23CC(=O)C(OC)CC2C1CC1=C3C(O)=C(OC)C=C1.CS(=O)(=O)[O-]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5178,"C=[C+]C[Si:1](C)(C)C.C[O:2]C|(2, 1)"
train,pmechdb_split_0,0,1035,"CC(C)CC1=C[C:1]2(C[CH2:2]2)[CH:3]=[CH:4][C:5]1=[O+:6]C.CC1=CC=C(S(=O)(=O)[O-])C=C1.OC=[O:7]|(7, 2);((2, 1), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,1299,"[CH3:1][Cl:2].[SH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5123,"CC(C)=[O:1].F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,764,"C[Si](C)(C)C[C:1]#[C:2]COCC[C+:3](C)C|((1, 2), 3)"
train,pmechdb_split_0,0,6763,"C1C[NH:1]CCO1.CC1=CC=C(S(=O)(=O)[O:2][CH3:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6774,"CCOC(=O)C(C[CH:1]=[C:2](OCC)[O-:3])C(=O)OCC.[H:4][OH:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8529,"CCN(CC)[C:1](C)([OH:2])[O:3]C(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4126,"CC1CCC(C2=CC=CC=C2)[CH:1]=[C:2]1C1=CC=CC=C1.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8641,"CC(C)[OH+:1][H:2].CC(C)[O][Al-]([O]C(C)C)([O]C1C(=O)CC2(OCCO2)C2(C)CC3OC(C)(C)OC3CC12)[O:3]C(C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9408,"COC(=O)C1CCCC1[N+:1](C(C)C)(C(C)C)[Li-:2][Br]|((2, 1), 1)"
train,pmechdb_split_0,0,4320,"CC(=O)[O:1][C:2](CCC(C)C)([N+]1=CC=C(N(C)C)C=C1)[O-:3].CC(C)(C)O.CCN(CC)CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6170,"CC1(C)CCCC[O+:1]1[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5696,"C[OH+:1][Cl:2].C[Si](C)(C)C[CH:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2672,"C=CC1(C)C=C(C[Si](C)(C)C)C(C)(C(C)CC=[O:1])CC1.[Cl-].[Cl][Zn:2][Cl]|(1, 2)"
train,pmechdb_split_0,0,1069,"CC1=CC[C:1](C2=CC=CC=C2)([OH2+:2])[O:3]1.O.O=S(=O)([O-])O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1559,"CC(=O)O.CCCCC1CC(CNC(C)=O)C[CH:1]([O:2]S(=O)(=O)C2=CC=C(C)C=C2)CCC(CC)C(CCC2CCCCO2)C1|((1, 2), 2)"
train,pmechdb_split_0,0,1810,"CC=C[CH2:1][I:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5800,"CCO[C:1](C1CCCCC1=O)([O-:2])[O:3]CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,426,"C1=CC=[N:1]C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1=C(Br)C=C(C2OCC(C)(C)C[O+:2]2[H:3])C=C1.O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6056,"C[S+:1](C)[O:2][H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,874,"BrC(Br)Br.Br[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COC1=CC=C(CC[O-:2])C=C1|(2, 1)"
train,pmechdb_split_0,0,3222,"CCCCCC(C1=CC=CC=C1)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5229,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.O=C1CCC2CCCC(=O)C2C1C=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2802,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=CC=C1.CCOC(=O)C1=C(C(F)(F)F)[O:1][C:2](C)([OH2+:3])C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9477,"CCOCC.O=S(=O)([O-])O.OC1=CC=C(CC(C2=C(O)C=C(O)C=C2O)=[NH:1])C=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6843,"CO[C:1]1=[CH:2]C=C(Br)C=C1Br.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
